US08580762B2
3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(ethyl)amino)cyclobutyl)propanoic acid
To a solution of Benzyl 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(ethyl)amino)cyclobutyl)propanoate (2.6 g, 4.73 mmol) in MeOH (40 mL) was added 10% Pd/C (2.3 g) and the mixture was stirred under H2 atmosphere at 50° C. for 20 h. The mixture was filtered and the filtrate was concentrated to obtain the target (2 g, yield: 92%) as a white solid. 1H NMR (500 MHz, MeOD): δH 8.27 (s, 1H), 8.25 (s, 1H), 6.30 (s, 1H), 5.52-5.49 (m, 1H), 5.14-5.12 (m, 1H), 4.51-4.47 (m, 1H), 3.43-3.36 (m, 2H), 3.22-3.15 (m, 1H), 2.94-2.89 (m, 2H), 2.28-2.05 (m, 4H), 1.96-1.80 (m, 2H), 1.74-1.69 (m, 1H), 1.65-1.59 (m, 5H), 1.41-1.36 (m, 4H), 1.03-0.99 (m, 3H) ppm; ESI-MS (m/z): 461.3 [M+1]+.

reactant | Benzyl 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(ethyl)amino)cyclobutyl)propanoate | 4.73 mmol, 2.6 g | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)OCC2=CC=CC=C2)CC | C29H38N6O5
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd/C | 2.3 g | [Pd] | Pd
product | 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(ethyl)amino)cyclobutyl)propanoic acid | yield: 92% | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)O)CC | C22H32N6O5
